US08791107B2
5-(4-(methylsulfonyl)benzyl)-2-(2-(trifluoromethyl)-1H-indol-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to EXAMPLE 3 using 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x9, 63.5 mg, 0.161 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)-1H-indole (100 mg, 0.321 mmol) and PdCl2(dppf) (5.88 mg, 8.04 mmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.21 (m, 3H), 3.23-3.34 (m, 3H), 3.56-3.66 (m, 2H), 3.88-4.03 (m, 2H), 4.05-4.16 (m, 1H), 4.59-4.68 (m, 1H), 4.71 (s, 2H), 7.41-7.48 (m, 1H), 7.56 (s, 2H), 7.65 (d, J=8.34 Hz, 3H), 7.79-7.86 (m, 1H), 7.94 (d, J=8.34 Hz, 2H), 12.56-12.65 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C26H24F3N5O3S, 544.16. found 544.5.

reactant | 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.161 mmol, 63.5 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C17H19ClN4O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)-1H-indole | 0.321 mmol, 100 mg | CC1(OB(OC1(C)C)C1=C2C=C(NC2=CC=C1)C(F)(F)F)C | C15H17BF3NO2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 8.04 mmol, 5.88 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4-(methylsulfonyl)benzyl)-2-(2-(trifluoromethyl)-1H-indol-4-yl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | CS(=O)(=O)C1=CC=C(CN2C=3C=NC(=NC3N3C(C2)COCC3)C3=C2C=C(NC2=CC=C3)C(F)(F)F)C=C1 | C26H24F3N5O3S
